US04729994
c. cis-3-(Acetyloxy)-2,3,4,5-tetrahydro-2-(4-methoxyphenyl)-N-[2-(3,4-dimethoxyphenyl)ethyl]N,N-dimethyl-4-oxo-1,5-benzothiazepine-5-ethanaminium iodide
To a flask under argon containing 4.94 g (0.0119 mole) diltiazem was added 50 ml ethyl acetate and 3.48 g (0.0119 mole) 3,4-dimethoxyphenethyl iodide. The reaction was refluxed for 24 hr then filtered. The filtrate was washed with sodium bicarbonate and brine, dried over K2CO3, and 0.85 g 3,4-dimethoxyphenethyl iodide added and the reaction refluxed for 18 hr then filtered. The last step was repeated but 1.75 g of 3,4-dimethoxyphenethyl iodide was added and the reaction refluxed 5 hr. The filtered materials were combined and recrystallized from 95% ethanol to give a mixture of product and diltiazem hydroiodide.

reactant | 3,4-dimethoxyphenethyl iodide | 0.0119 mole, 3.48 g | COC=1C=C(CCI)C=CC1OC | C10H13IO2
reactant | diltiazem hydroiodide | CC(=O)O[C@@H]1[C@@H](SC=2C=CC=CC2N(C1=O)CCN(C)C)C=3C=CC(=CC3)OC.I
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | cis-3-(Acetyloxy)-2,3,4,5-tetrahydro-2-(4-methoxyphenyl)-N-[2-(3,4-dimethoxyphenyl)ethyl]N,N-dimethyl-4-oxo-1,5-benzothiazepine-5-ethanaminium iodide | [I-].C(C)(=O)O[C@@H]1[C@@H](SC2=C(N(C1=O)CC[N+](C)(C)CCC1=CC(=C(C=C1)OC)OC)C=CC=C2)C2=CC=C(C=C2)OC | InChI=1S/C32H39N2O6S.HI/c1-22(35)40-30-31(24-12-14-25(37-4)15-13-24)41-29-10-8-7-9-26(29)33(32(30)36)18-20-34(2,3)19-17-23-11-16-27(38-5)28(21-23)39-6;/h7-16,21,30-31H,17-20H2,1-6H3;1H/q+1;/p-1/t30-,31+;/m1./s1
